US05962479
[2,5-Dimethyl-6-(tetrahydrofuran-3-yloxy)-pyrimidin-4-yl]-(2,4,6-trimethylphenyl)-amine
A mixture of 3-hydroxy-tetrahydrofuran (0.5 ml) and sodium hydride (60% in oil, 53 mg, 1.33 mmol) in dry THF was stirred at room temperature for 5 minutes, (6-chloro-2,5-dimethyl-pyrimidin-4-yl)-(2,4,6-trimethylphenyl)-amine (107 mg, 0.388 mmol) was added. The mixture was heated at reflux for 15 hours. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was separated, dried and concentrated to give a yellow oil. The oil was purified through silica gel column chromatography using 20% ethyl acetate in hexane as eluent to give 48 mg of the title compound as off-white crystals, mp 126-128° C. 1H NMR (CDCl3) δ6.89 (s, 2H), 5.60 (brs, 2H), 3.8-4.0 (m, 4H), 2.27 (s, 6H), 2.13 (s, 6H), 2.1-2.25 (m, 2H), 1.93 (s, 3H) ppm.

reactant | 3-hydroxy-tetrahydrofuran | 0.5 ml | OC1COCC1 | C4H8O2
reactant | sodium hydride | 1.33 mmol, 53 mg | [H-].[Na+]
reactant | (6-chloro-2,5-dimethyl-pyrimidin-4-yl)-(2,4,6-trimethylphenyl)-amine | 0.388 mmol, 107 mg | ClC1=C(C(=NC(=N1)C)NC1=C(C=C(C=C1C)C)C)C | C15H18ClN3
solvent | THF | C1CCOC1 | C4H8O
product | [2,5-Dimethyl-6-(tetrahydrofuran-3-yloxy)-pyrimidin-4-yl]-(2,4,6-trimethylphenyl)-amine | 48 mg | CC1=NC(=C(C(=N1)NC1=C(C=C(C=C1C)C)C)C)OC1COCC1 | C19H25N3O2
